### PR TITLE
[Merged by Bors] - feat(Analysis/Convex): extreme points of doubly stochastic matrices

### PR DESCRIPTION
**Pull request by b-mehta**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

- [x] depends on: #16278
- [x] depends on: #17535

### CODE REVIEW

File: Mathlib/Analysis/Convex/Birkhoff.lean [hunk 1]
```diff
@@ -169,4 +171,29 @@ theorem doublyStochastic_eq_convexHull_permMatrix :
...
+theorem extremePoints_doublyStochastic :
+    Set.extremePoints R (doublyStochastic R n) = {σ.permMatrix R | σ : Equiv.Perm n} := by
+  refine subset_antisymm ?_ ?_
+  · rw [doublyStochastic_eq_convexHull_permMatrix]
+    exact extremePoints_convexHull_subset
+  rintro _ ⟨σ, rfl⟩
+  refine ⟨permMatrix_mem_doublyStochastic, fun x₁ hx₁ x₂ hx₂ hσ ↦ ?_⟩
+  suffices ∀ i j : n, x₁ i j = x₂ i j by
+    obtain rfl : x₁ = x₂ := by simpa [← Matrix.ext_iff]
+    simp_all
```
Comment (j-loreaux) [inline Mathlib/Analysis/Convex/Birkhoff.lean:186]: I think the definition of `Set.extremePoints` is bad. It shouldn't end with `... x₁ = x ∧ x₂ = x`, but rather `... x₁ = x₂`. If someone wants to prove they are both `x`, then they can just use `trans x`.

Maybe that's something that should be fixed in a different PR, but I thought I would point it out.

File: Mathlib/Analysis/Convex/Birkhoff.lean [hunk 2]
```diff
@@ -169,4 +171,29 @@ theorem doublyStochastic_eq_convexHull_permMatrix :
...
+  intro i j
+  have h₁ : σ.permMatrix R i j ∈ openSegment R (x₁ i j) (x₂ i j) :=
+    image_openSegment _ (entryLinearMap R R i j).toAffineMap x₁ x₂ ▸ ⟨_, hσ, rfl⟩
+  by_contra! h
+  have h₂ : openSegment R (x₁ i j) (x₂ i j) ⊆ Set.Ioo 0 1 := by
+    rw [openSegment_eq_Ioo' h]
+    apply Set.Ioo_subset_Ioo <;>
+    simp_all [nonneg_of_mem_doublyStochastic, le_one_of_mem_doublyStochastic]
+  specialize h₂ h₁
+  simp only [PEquiv.toMatrix_apply, Equiv.toPEquiv] at h₂
```
Comment (j-loreaux) [inline Mathlib/Analysis/Convex/Birkhoff.lean:196]:
```suggestion
```

**Review by j-loreaux — COMMENTED** [review]
Thanks! This is nice to have!

bors d+

File: Mathlib/Analysis/Convex/Birkhoff.lean (hunk 1 above)
Comment (b-mehta) [reply Mathlib/Analysis/Convex/Birkhoff.lean:186]: Writing this proof certainly made me feel the same way... But I agree that this PR probably isn't the place to fix it. Do you mind if I leave it as-is for now?

File: Mathlib/Analysis/Convex/Birkhoff.lean (hunk 2 above)
Comment (b-mehta) [reply Mathlib/Analysis/Convex/Birkhoff.lean]: Nice catch!
